US06734183B2
(iv) 1-(4-chlorophenyl)-4-{[(1E)-4-(5-chloropyridin-3-yl)but-1-enyl]sulfonyl}piperazine
To a stirred solution of 1-{[4-(4-chlorophenyl)piperazin-1-yl]sulfonyl}-4-(5-chloropyridin-3-yl)butan-2-ol (111 mg, 0.25 mmol) in dry CH2Cl2 (2.5 mL) at RT was added under an atmosphere of argon, trimethylamine hydrochloride (2 mg, 0.02 mmol), triethylamine (52 μl, 0.25 mmol), then methanesulfonyl chloride (21 μl, 0.25 mmol). The reaction was stirred for 30 mins at RT, then quenched by addition of saturated aqueous sodium bicarbonate solution (5 mL). The layers were separated and the aqueous phase extracted with ethyl acetate (3×6 mL). The combined organic extracts were then dried, (MgSO4), filtered and concentrated in vacuo. The residue was then dissolved in CH2Cl2 (2.5 mL) and treated with triethylamine (100 μl, 1.36 mmol). After 30 minutes, the reaction was quenched by addition of saturated aqueous sodium bicarbonate solution (5 mL). The layers were separated and the aqueous phase extracted with ethyl acetate (3×6 mL). The combined organic extracts were then dried, (MgSO4), filtered and concentrated in vacuo. The crude material was used in the next step.

reactant | 1-{[4-(4-chlorophenyl)piperazin-1-yl]sulfonyl}-4-(5-chloropyridin-3-yl)butan-2-ol | 0.25 mmol, 111 mg | ClC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)CC(CCC=1C=NC=C(C1)Cl)O | C19H23Cl2N3O3S
reactant | trimethylamine hydrochloride | 0.02 mmol, 2 mg | Cl.CN(C)C
reactant | triethylamine | 0.25 mmol, 52 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.25 mmol, 21 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.36 mmol, 100 μl | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-chlorophenyl)-4-{[(1E)-4-(5-chloropyridin-3-yl)but-1-enyl]sulfonyl}piperazine | ClC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)\C=C\CCC=1C=NC=C(C1)Cl | C19H21Cl2N3O2S
